US04245097
Preparation of 4-(16-bromohexadecylamino)benzoyl chloride hydrochloride
A cold solution of 25 g. 4-(16-bromohexadecylamino)benzoic acid in 500 ml. dimethoxyethane-methylene chloride (4:1) is prepared and dry hydrochloric acid is bubbled through the solution until no more precipitate forms. The solution is treated with 25 ml. thionyl chloride and refluxed until all of the precipitate has dissolved. The solvents are evaporated to yield an orange, semi-crystalline mass.

reactant | 4-(16-bromohexadecylamino)benzoic acid | BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C23H38BrNO2
reactant | dimethoxyethane methylene chloride | C(OC)COC.C(Cl)Cl
product | 4-(16-bromohexadecylamino)benzoyl chloride hydrochloride | Cl.BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C23H37BrClNO.ClH/c24-19-13-11-9-7-5-3-1-2-4-6-8-10-12-14-20-26-22-17-15-21(16-18-22)23(25)27;/h15-18,26H,1-14,19-20H2;1H
